US04250094
In the manner given in Example 1, 8-trifluoromethyl-1-(chloromethyl)-6-(o-bromophenyl)-4H-s-triazolo[4,3-a]-[1,4]benzodiazepine was reacted with dipropylamine in the presence of sodium iodide to give 1-[(dipropylamino)methyl]-8-trifluoromethyl-6-(o-bromophenyl)-4H-s-triazolo-[4,3-a][1,4]benzodiazepine.

reactant | 8-trifluoromethyl-1-(chloromethyl)-6-(o-bromophenyl)-4H-s-triazolo[4,3-a]-[1,4]benzodiazepine | FC(C=1C=CC2=C(C(=NCC=3N2C(=NN3)CCl)C3=C(C=CC=C3)Br)C1)(F)F | C18H11BrClF3N4
reactant | dipropylamine | C(CC)NCCC | C6H15N
reactant | sodium iodide | [I-].[Na+]
product | 1-[(dipropylamino)methyl]-8-trifluoromethyl-6-(o-bromophenyl)-4H-s-triazolo-[4,3-a][1,4]benzodiazepine | C(CC)N(CCC)CC1=NN=C2N1C1=C(C(=NC2)C2=C(C=CC=C2)Br)C=C(C=C1)C(F)(F)F | C24H25BrF3N5
